US06924374B2
1-(4-Chloro-3-trifluoromethyl-phenyl)-piperazine
Beginning with 5-bromo-2-chlorobenzotrifluoride (602 mg) and piperazine (1 g), 480 mg of the title compound was recovered by the procedure described in Example 1.

reactant | 5-bromo-2-chlorobenzotrifluoride | 602 mg | BrC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | piperazine | 1 g | N1CCNCC1 | C4H10N2
product | 1-(4-Chloro-3-trifluoromethyl-phenyl)-piperazine | 480 mg | ClC1=C(C=C(C=C1)N1CCNCC1)C(F)(F)F | C11H12ClF3N2
